US06518423B1
37.13 g of ethyl (3-methyl-3-azabicyclo[3.3.1]non-9-ylidene)acetate was dissolved in 815 ml of methanol. After adding 20.24 g of magnesium, the resulting mixture was stirred at room temperature for 18 hours. Then a saturated aqueous solution of ammonium chloride was added to the reaction mixture followed by extraction with ethyl acetate. The ethyl acetate layer was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After concentrating the solvent under reduced pressure, 34.32 g of crude methyl (3-methyl-3-azabicyclo[3.3.1]non-9-yl)acetate was obtained.

reactant | ethyl (3-methyl-3-azabicyclo[3.3.1]non-9-ylidene)acetate | 37.13 g | CN1CC2CCCC(C1)C2=CC(=O)OCC | C13H21NO2
reactant | magnesium | 20.24 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 815 ml | CO | CH4O
product | methyl (3-methyl-3-azabicyclo[3.3.1]non-9-yl)acetate | 34.32 g | CN1CC2CCCC(C1)C2CC(=O)OC | C12H21NO2
